US05559105
g) (2E)-3(2-n-Butyl-1-trimethylsilylethyloxymethoxy-1H-imidazol-5-yl)-3-(2-carboxymethoxy-4-methoxyphenyl)-2-(3,4-methylenedioxybenzyl)prop-2-enoic acid
Methyl-(2E)-3(2-n-Butyl-1-trimethylsilylethyloxymethoxy-1H-imidazol-5-yl)-3-(2-ethoxycarbonylmethoxy-4-methoxyphenyl)-2-(3,4-methylenedioxybenzyl)prop-2-enoate (123 mg, 0.181 mmol) in 2.5N NaOH (2.0 ml) and isopropanol (2.0 ml) was heated under argon at 95° for 18 h. The solvent (i-PrOH) was removed under reduced pressure and the residue was diluted with H2O and washed with EtOAc. The pH of the aqueous layer was lowered to 3.5-4.5 with 1M HCl and the resultant precipitate was collected and air-dried (101 mg, 88%). The crude solid was recrystallized from i-propanol to afford the hydrochloride salt of the title compound as a white solid.

reactant | Methyl-(2E)-3(2-n-Butyl-1-trimethylsilylethyloxymethoxy-1H-imidazol-5-yl)-3-(2-ethoxycarbonylmethoxy-4-methoxyphenyl)-2-(3,4-methylenedioxybenzyl)prop-2-enoate | 0.181 mmol, 123 mg | COC(\C(=C(/C1=C(C=C(C=C1)OC)OCC(=O)OCC)\C1=CN=C(N1OCOC(C)[Si](C)(C)C)CCCC)\CC1=CC2=C(C=C1)OCO2)=O | C36H48N2O10Si
solvent | NaOH | 2.5N, 2.0 ml | [OH-].[Na+]
solvent | isopropanol | 2.0 ml | C(C)(C)O | C3H8O
product | (2E)-3(2-n-Butyl-1-trimethylsilylethyloxymethoxy-1H-imidazol-5-yl)-3-(2-carboxymethoxy-4-methoxyphenyl)-2-(3,4-methylenedioxybenzyl)prop-2-enoic acid | C(CCC)C=1N(C(=CN1)/C(=C(/C(=O)O)\CC1=CC2=C(C=C1)OCO2)/C2=C(C=C(C=C2)OC)OCC(=O)O)OCOC(C)[Si](C)(C)C | C33H42N2O10Si
